US05631372
1-Fluoro-4-methanesulfonyl-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) 1,4-Diazabicyclo[2.2.2]octane (11 g, 10 mmol) in tetrahydrofuran (100 mL) is reacted with methanesulfonyl chloride (11.5 g, 10 mmol) until the reaction is complete by TLC. The reaction is evaporated, diluted with acetonitrile (100 mL) and sodium tetrafluoroborate (40 g, 20 mmol) added. The solution is stirred overnight at room temperature and then filtered to remove all undissolved salts. The filtrate is evaporated to afford 1-methanesulfonyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate.

reactant | 1-Fluoro-4-methanesulfonyl-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) 1,4-Diazabicyclo[2.2.2]octane | 10 mmol, 11 g | N12CCN(CC1)CC2.F[B-](F)(F)F.F[B-](F)(F)F.F[N+]21CC[N+](CC2)(CC1)S(=O)(=O)C
reactant | methanesulfonyl chloride | 10 mmol, 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium tetrafluoroborate | 20 mmol, 40 g | F[B-](F)(F)F.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-methanesulfonyl-4-aza-1-azoniabicyclo[2.2.2]octane tetrafluoroborate | F[B-](F)(F)F.CS(=O)(=O)[N+]12CCN(CC1)CC2 | InChI=1S/C7H15N2O2S.BF4/c1-12(10,11)9-5-2-8(3-6-9)4-7-9;2-1(3,4)5/h2-7H2,1H3;/q+1;-1
